US07951951B2
At 100° C., 540 mg (1.55 mmol) of 5-[2-({[(6-chloropyridin-3-yl)methyl]amino}methyl)prop-2-en-1-yl]-4-pyrrolidin-1-ylfuran-2(5H)-one (III-1) in 20 ml of acetic acid are stirred for 2 hours. The reaction mixture is concentrated under reduced pressure, the residue is taken up in dichloromethane and the mixture is washed with water. The aqueous phase is extracted twice with dichloromethane. The combined organic phase is washed with 1N aqueous sodium hydroxide solution, and the aqueous phase (sodium hydroxide solution) for its part is extracted twice with dichloromethane. The combined organic phase is dried over sodium sulphate and concentrated under reduced pressure. Purification of the residue by reciystallization from ethyl acetate gives 407 mg (94% of theory) of 4-[(6-chloropyridin-3-yl)methyl]-6-methylene-5,6,7,7a-tetrahydrofuro[3,2-b]pyridin-2(4H)-one.

reactant | 5-[2-({[(6-chloropyridin-3-yl)methyl]amino}methyl)prop-2-en-1-yl]-4-pyrrolidin-1-ylfuran-2(5H)-one | 1.55 mmol, 540 mg | ClC1=CC=C(C=N1)CNCC(CC1C(=CC(O1)=O)N1CCCC1)=C | C18H22ClN3O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 4-[(6-chloropyridin-3-yl)methyl]-6-methylene-5,6,7,7a-tetrahydrofuro[3,2-b]pyridin-2(4H)-one | 407 mg, 94% | ClC1=CC=C(C=N1)CN1C=2C(CC(C1)=C)OC(C2)=O | C14H13ClN2O2
